US07589103B2
4-Bromo-2-phenoxy-benzoic acid, 2a
4-Bromo-2-phenoxy-benzonitrile (35.3 g, 129 mmol) was added to 130 mL EtOH, followed by the addition of 340 mL of 20% NaOH (aq). The reaction was heated to reflux for 20 h. The mixture was cooled to room temperature and poured into 6 N HCl to form a precipitate. The solid was collected by vacuum filtration and dissolved in 3:1 THF-ethyl ether and washed with brine. The organic phase was dried over magnesium sulfate, and concentrated. The solids were dried in a vacuum oven at 60° C. overnight to give 35.1 g (128 mmol) of the desired product. MS m/z (MH+) 292.

reactant | 4-Bromo-2-phenoxy-benzonitrile | 129 mmol, 35.3 g | BrC1=CC(=C(C#N)C=C1)OC1=CC=CC=C1 | C13H8BrNO
reactant | NaOH | 340 mL | [OH-].[Na+]
reactant | HCl | 6 N | Cl | ClH
reactant | EtOH | 130 mL | CCO | C2H6O
product | 4-Bromo-2-phenoxy-benzoic acid | 128 mmol, 35.1 g | BrC1=CC(=C(C(=O)O)C=C1)OC1=CC=CC=C1 | C13H9BrO3
